US06177587B1
The concentrate obtained in Working Example 2(2) (methyl2-[N-t-butoxycarbonyl-N-[(2′-cyanobiphenyl-4-yl)methyl]amino]-3-nitro-benzoate [BBN]) and methanol (3200 L) were mixed, and 35% concentrated hydrochloric acid (1050 L) was added to the mixture at 30° C. or less for about 4 hours. The mixture was heated to reflux temperature (67-69° C.) at a speed of 10° C. or less/hour, and stirred for about 1.5 hours under reflux. The reaction solution was cooled, to which was added methanol (800 L), and the solution was stirred at 3-10° C. for about 1 hour. The precipitated crystals were separated, washed with methanol and dried to give methyl 2-[[(2′-cyano-biphenyl-4-yl)methyl]amino]-3-nitro-benzoate [MBN] (407 kg; yield based on MPB: 75%).

reactant | methyl2-[N-t-butoxycarbonyl-N-[(2′-cyanobiphenyl-4-yl)methyl]amino]-3-nitro-benzoate | COC(C1=C(C(=CC=C1)[N+](=O)[O-])N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)OC(C)(C)C)=O | C27H25N3O6
reactant | hydrochloric acid | 1050 L | Cl | ClH
solvent | methanol | 800 L | CO | CH4O
solvent | methanol | 3200 L | CO | CH4O
product | methyl 2-[[(2′-cyano-biphenyl-4-yl)methyl]amino]-3-nitro-benzoate | 407 kg, 75% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C22H17N3O4
